US07985769B2
To the mixture of 4-methylbenzeneboronic acid (38.0 mg, 0.279 mmol) and 5-Bromo-3-(toluene-2-sulfonylamino)-thiophene-2-carboxylic acid tert-butyl ester (40 mg, 0.0925 mmol) in 5:1 mixture of toluene/MeOH (2.0 mL) was added a solution of Pd(PPh3)4 (12.0 mg, 0.01 mmol, 10 mol %) in toluene (1.0 mL) followed by aqueous 2M Na2CO3 solution (0.1 mL, 0.2 mmol). The resultant reaction mixture was heated at 70° C. for 16 h, cooled to room temperature, filtered off through MgSO4 and washed with EtOAc. Evaporation of the solvent and purification of the residue over preparative TLC (1 mm, 60 A°) using ethyl acetate/hexane (1:10) as an eluent furnished 3-(Toluene-2-sulfonylamino)-5-p-tolyl-thiophene-2-carboxylic acid tert-butyl ester (36.0 mg, 81% yield). 1H NMR (CDCl3, 300 MHz) 9.94 (s, 1H), 8.05 (d, J=8.0 Hz, 1H), 7.44-7.25 (m, 6H), 7.18 (d, J=8.1 Hz, 2H), 2.71 (s, 3H), 2.36 (s, 3H), 1.56 (s, 9H).

reactant | 4-methylbenzeneboronic acid | 0.279 mmol, 38.0 mg | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | 5-Bromo-3-(toluene-2-sulfonylamino)-thiophene-2-carboxylic acid tert-butyl ester | 0.0925 mmol, 40 mg | C(C)(C)(C)OC(=O)C=1SC(=CC1NS(=O)(=O)C=1C(=CC=CC1)C)Br | C16H18BrNO4S2
reactant | toluene MeOH | 2.0 mL | C1(=CC=CC=C1)C.CO
reactant | Na2CO3 | 0.2 mmol, 2M, 0.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.01 mmol, 12.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(Toluene-2-sulfonylamino)-5-p-tolyl-thiophene-2-carboxylic acid tert-butyl ester | 36.0 mg, 81% yield | C(C)(C)(C)OC(=O)C=1SC(=CC1NS(=O)(=O)C=1C(=CC=CC1)C)C1=CC=C(C=C1)C | C23H25NO4S2
